US07906504B2
To a stirred suspension of methyltriphenylphosphonium bromide (68.20 g, 0.191 mol) in anhydrous THF (400 mL) cooled to −40° C. was added n-butyllithium (2.5 M in hexanes, 71.2 mL, 0.178 mol) via syringe over 15 min, at which point the characteristic yellow color of the phosphorus ylide persisted. The reaction mixture was warmed to −10° C. over 1 h to complete the reaction. The mixture was subsequently cooled to −30° C. and a solution of 4-fluoro-3-methoxybenzaldehyde (10.00 g, 63.64 mmol) in anhydrous THF (40 mL) was added via a cannula over 10 min. The resultant mixture was warmed to ambient temperature over 16 h. The reaction was quenched by gradual addition of water (200 mL) and the aqueous extracted with diethyl ether (3×200 mL). The combined organic layers were washed with water (2×200 mL), brine (200 mL), dried (MgSO4) and concentrated under reduced pressure to give 1-fluoro-2-methoxy-4-vinylbenzene (INTERMEDIATE II.1) (8.69 g, 57.1 mmol, 90%) as a yellow oil.

reactant | n-butyllithium | 0.178 mol, 2.5 M, 71.2 mL | C(CCC)[Li]
reactant | 4-fluoro-3-methoxybenzaldehyde | 63.64 mmol, 10.00 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
catalyst | methyltriphenylphosphonium bromide | 0.191 mol, 68.20 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 400 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-fluoro-2-methoxy-4-vinylbenzene | 57.1 mmol, 8.69 g, 90% | FC1=C(C=C(C=C1)C=C)OC | C9H9FO
